US07361672B2
54.3 Using general procedure A, 4-chloro-N-[4-(2-oxo-2-piperazin-1-yl-ethyl)-thiazol-2-yl]-benzamide was coupled with (2-oxo-pyrrolidine-1-yl)-acetic acid (CAS 53934-76-2) to give 4-chloro-N-[4-(2-oxo-2-{4-[2-(2-oxo-pyrrolidin-1-yl)-acetyl]-piperazin-1-yl}-ethyl)-thiazol-2-yl]-benzamide. White solid. MS 490.4 ([M+H]+)

reactant | 4-chloro-N-[4-(2-oxo-2-piperazin-1-yl-ethyl)-thiazol-2-yl]-benzamide | ClC1=CC=C(C(=O)NC=2SC=C(N2)CC(N2CCNCC2)=O)C=C1 | C16H17ClN4O2S
reactant | (2-oxo-pyrrolidine-1-yl)-acetic acid | O=C1N(CCC1)CC(=O)O | C6H9NO3
product | 4-chloro-N-[4-(2-oxo-2-{4-[2-(2-oxo-pyrrolidin-1-yl)-acetyl]-piperazin-1-yl}-ethyl)-thiazol-2-yl]-benzamide | ClC1=CC=C(C(=O)NC=2SC=C(N2)CC(N2CCN(CC2)C(CN2C(CCC2)=O)=O)=O)C=C1 | C22H24ClN5O4S
